US05506190
N-(2-Fluoro-4-chloro-5-cyclopentyloxyphenyl)-3,4,5,6-tetrahydrophthalimide (1.00 g, 2.75 mmol), octylamine (0.460 g, 3.56 mmol), triethylamine (0.310 g, 3.06 mmol) and benzene (25 ml) as a solvent were placed into a round bottom flask (50 cc) and stirred overnight at room temperature. After completion of the reaction, the reaction mixture was poured into 1N hydrochloric acid (50 ml), and the mixture was extracted with ethyl acetate (50 ml×3 portions). The organic layer was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resulting crude product was recrystallized from ether to obtain N-(2-fluoro-4-chloro-5-cyclopentyloxyphenyl)-N'-octyl-3,4,5,6-tetrahydrophthalamide as white crystals (0.410 g, 30.2% yield).

reactant | N-(2-Fluoro-4-chloro-5-cyclopentyloxyphenyl)-3,4,5,6-tetrahydrophthalimide | 2.75 mmol, 1.00 g | FC1=C(C=C(C(=C1)Cl)OC1CCCC1)N1C(C2=C(C1=O)CCCC2)=O | C19H19ClFNO3
reactant | octylamine | 3.56 mmol, 0.460 g | C(CCCCCCC)N | C8H19N
reactant | triethylamine | 3.06 mmol, 0.310 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1N, 50 ml | Cl | ClH
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | N-(2-fluoro-4-chloro-5-cyclopentyloxyphenyl)-N'-octyl-3,4,5,6-tetrahydrophthalamide | 0.410 g, 30.2% yield | FC1=C(C=C(C(=C1)Cl)OC1CCCC1)NC(C1=C(C(=O)NCCCCCCCC)CCCC1)=O | C27H38ClFN2O3
